** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-185/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant J20a: 300 cycles, nominal period
** 3.9170 ns, injected period jitter 2.000000% RMS
** (seeded RNG, seed 185020), TR = TF = 20 ps.
VCLK CLK GND pwl(
+ 0.000000n 0 1.990000n 0 2.010000n 1.8 4.016718n 1.8
+ 4.036718n 0 6.043435n 0 6.063435n 1.8 8.044477n 1.8
+ 8.064477n 0 10.045519n 0 10.065519n 1.8 12.006415n 1.8
+ 12.026415n 0 13.967311n 0 13.987311n 1.8 15.890017n 1.8
+ 15.910017n 0 17.812723n 0 17.832723n 1.8 19.744881n 1.8
+ 19.764881n 0 21.677039n 0 21.697039n 1.8 23.620937n 1.8
+ 23.640937n 0 25.564835n 0 25.584835n 1.8 27.497245n 1.8
+ 27.517245n 0 29.429654n 0 29.449654n 1.8 31.401071n 1.8
+ 31.421071n 0 33.372487n 0 33.392487n 1.8 35.371092n 1.8
+ 35.391092n 0 37.369697n 0 37.389697n 1.8 39.357873n 1.8
+ 39.377873n 0 41.346050n 0 41.366050n 1.8 43.239159n 1.8
+ 43.259159n 0 45.132269n 0 45.152269n 1.8 47.119540n 1.8
+ 47.139540n 0 49.106812n 0 49.126812n 1.8 51.120739n 1.8
+ 51.140739n 0 53.134665n 0 53.154665n 1.8 55.039077n 1.8
+ 55.059077n 0 56.943489n 0 56.963489n 1.8 58.942050n 1.8
+ 58.962050n 0 60.940611n 0 60.960611n 1.8 62.812305n 1.8
+ 62.832305n 0 64.684000n 0 64.704000n 1.8 66.637324n 1.8
+ 66.657324n 0 68.590649n 0 68.610649n 1.8 70.571258n 1.8
+ 70.591258n 0 72.551868n 0 72.571868n 1.8 74.461902n 1.8
+ 74.481902n 0 76.371936n 0 76.391936n 1.8 78.380432n 1.8
+ 78.400432n 0 80.388928n 0 80.408928n 1.8 82.339630n 1.8
+ 82.359630n 0 84.290331n 0 84.310331n 1.8 86.258505n 1.8
+ 86.278505n 0 88.226680n 0 88.246680n 1.8 90.153668n 1.8
+ 90.173668n 0 92.080656n 0 92.100656n 1.8 94.060806n 1.8
+ 94.080806n 0 96.040956n 0 96.060956n 1.8 98.048699n 1.8
+ 98.068699n 0 100.056443n 0 100.076443n 1.8 101.993670n 1.8
+ 102.013670n 0 103.930896n 0 103.950896n 1.8 105.838168n 1.8
+ 105.858168n 0 107.745440n 0 107.765440n 1.8 109.617216n 1.8
+ 109.637216n 0 111.488993n 0 111.508993n 1.8 113.481125n 1.8
+ 113.501125n 0 115.473257n 0 115.493257n 1.8 117.418776n 1.8
+ 117.438776n 0 119.364294n 0 119.384294n 1.8 121.355963n 1.8
+ 121.375963n 0 123.347631n 0 123.367631n 1.8 125.309040n 1.8
+ 125.329040n 0 127.270448n 0 127.290448n 1.8 129.196747n 1.8
+ 129.216747n 0 131.123045n 0 131.143045n 1.8 133.115448n 1.8
+ 133.135448n 0 135.107851n 0 135.127851n 1.8 137.122783n 1.8
+ 137.142783n 0 139.137715n 0 139.157715n 1.8 141.130677n 1.8
+ 141.150677n 0 143.123638n 0 143.143638n 1.8 145.088818n 1.8
+ 145.108818n 0 147.053997n 0 147.073997n 1.8 148.969751n 1.8
+ 148.989751n 0 150.885504n 0 150.905504n 1.8 152.885248n 1.8
+ 152.905248n 0 154.884992n 0 154.904992n 1.8 156.836499n 1.8
+ 156.856499n 0 158.788005n 0 158.808005n 1.8 160.676095n 1.8
+ 160.696095n 0 162.564185n 0 162.584185n 1.8 164.516918n 1.8
+ 164.536918n 0 166.469650n 0 166.489650n 1.8 168.373842n 1.8
+ 168.393842n 0 170.278033n 0 170.298033n 1.8 172.289283n 1.8
+ 172.309283n 0 174.300533n 0 174.320533n 1.8 176.286602n 1.8
+ 176.306602n 0 178.272670n 0 178.292670n 1.8 180.175998n 1.8
+ 180.195998n 0 182.079326n 0 182.099326n 1.8 184.079354n 1.8
+ 184.099354n 0 186.079381n 0 186.099381n 1.8 188.061504n 1.8
+ 188.081504n 0 190.043627n 0 190.063627n 1.8 192.001032n 1.8
+ 192.021032n 0 193.958436n 0 193.978436n 1.8 195.884042n 1.8
+ 195.904042n 0 197.809648n 0 197.829648n 1.8 199.698880n 1.8
+ 199.718880n 0 201.588112n 0 201.608112n 1.8 203.582624n 1.8
+ 203.602624n 0 205.577135n 0 205.597135n 1.8 207.528938n 1.8
+ 207.548938n 0 209.480741n 0 209.500741n 1.8 211.450868n 1.8
+ 211.470868n 0 213.420995n 0 213.440995n 1.8 215.343427n 1.8
+ 215.363427n 0 217.265859n 0 217.285859n 1.8 219.232708n 1.8
+ 219.252708n 0 221.199557n 0 221.219557n 1.8 223.175296n 1.8
+ 223.195296n 0 225.151034n 0 225.171034n 1.8 227.126825n 1.8
+ 227.146825n 0 229.102615n 0 229.122615n 1.8 231.095090n 1.8
+ 231.115090n 0 233.087564n 0 233.107564n 1.8 235.120977n 1.8
+ 235.140977n 0 237.154390n 0 237.174390n 1.8 239.050409n 1.8
+ 239.070409n 0 240.946429n 0 240.966429n 1.8 242.899372n 1.8
+ 242.919372n 0 244.852314n 0 244.872314n 1.8 246.836034n 1.8
+ 246.856034n 0 248.819753n 0 248.839753n 1.8 250.763425n 1.8
+ 250.783425n 0 252.707097n 0 252.727097n 1.8 254.663888n 1.8
+ 254.683888n 0 256.620679n 0 256.640679n 1.8 258.566368n 1.8
+ 258.586368n 0 260.512057n 0 260.532057n 1.8 262.544386n 1.8
+ 262.564386n 0 264.576716n 0 264.596716n 1.8 266.540911n 1.8
+ 266.560911n 0 268.505107n 0 268.525107n 1.8 270.480510n 1.8
+ 270.500510n 0 272.455913n 0 272.475913n 1.8 274.440816n 1.8
+ 274.460816n 0 276.425719n 0 276.445719n 1.8 278.346576n 1.8
+ 278.366576n 0 280.267433n 0 280.287433n 1.8 282.260433n 1.8
+ 282.280433n 0 284.253434n 0 284.273434n 1.8 286.216767n 1.8
+ 286.236767n 0 288.180100n 0 288.200100n 1.8 290.074317n 1.8
+ 290.094317n 0 291.968534n 0 291.988534n 1.8 293.971446n 1.8
+ 293.991446n 0 295.974358n 0 295.994358n 1.8 297.911955n 1.8
+ 297.931955n 0 299.849553n 0 299.869553n 1.8 301.778550n 1.8
+ 301.798550n 0 303.707548n 0 303.727548n 1.8 305.696708n 1.8
+ 305.716708n 0 307.685869n 0 307.705869n 1.8 309.601346n 1.8
+ 309.621346n 0 311.516824n 0 311.536824n 1.8 313.558151n 1.8
+ 313.578151n 0 315.599479n 0 315.619479n 1.8 317.468904n 1.8
+ 317.488904n 0 319.338329n 0 319.358329n 1.8 321.286071n 1.8
+ 321.306071n 0 323.233813n 0 323.253813n 1.8 325.275839n 1.8
+ 325.295839n 0 327.317866n 0 327.337866n 1.8 329.201935n 1.8
+ 329.221935n 0 331.086004n 0 331.106004n 1.8 332.993577n 1.8
+ 333.013577n 0 334.901150n 0 334.921150n 1.8 336.894651n 1.8
+ 336.914651n 0 338.888152n 0 338.908152n 1.8 340.833668n 1.8
+ 340.853668n 0 342.779183n 0 342.799183n 1.8 344.733582n 1.8
+ 344.753582n 0 346.687980n 0 346.707980n 1.8 348.677998n 1.8
+ 348.697998n 0 350.668017n 0 350.688017n 1.8 352.650082n 1.8
+ 352.670082n 0 354.632147n 0 354.652147n 1.8 356.612866n 1.8
+ 356.632866n 0 358.593585n 0 358.613585n 1.8 360.549817n 1.8
+ 360.569817n 0 362.506049n 0 362.526049n 1.8 364.445060n 1.8
+ 364.465060n 0 366.384070n 0 366.404070n 1.8 368.278905n 1.8
+ 368.298905n 0 370.173740n 0 370.193740n 1.8 372.129765n 1.8
+ 372.149765n 0 374.085790n 0 374.105790n 1.8 376.045147n 1.8
+ 376.065147n 0 378.004503n 0 378.024503n 1.8 379.952582n 1.8
+ 379.972582n 0 381.900661n 0 381.920661n 1.8 383.809276n 1.8
+ 383.829276n 0 385.717892n 0 385.737892n 1.8 387.677304n 1.8
+ 387.697304n 0 389.636716n 0 389.656716n 1.8 391.696628n 1.8
+ 391.716628n 0 393.756540n 0 393.776540n 1.8 395.695526n 1.8
+ 395.715526n 0 397.634512n 0 397.654512n 1.8 399.545598n 1.8
+ 399.565598n 0 401.456683n 0 401.476683n 1.8 403.439484n 1.8
+ 403.459484n 0 405.422285n 0 405.442285n 1.8 407.306987n 1.8
+ 407.326987n 0 409.191689n 0 409.211689n 1.8 411.106584n 1.8
+ 411.126584n 0 413.021480n 0 413.041480n 1.8 414.935456n 1.8
+ 414.955456n 0 416.849433n 0 416.869433n 1.8 418.814902n 1.8
+ 418.834902n 0 420.780371n 0 420.800371n 1.8 422.664743n 1.8
+ 422.684743n 0 424.549115n 0 424.569115n 1.8 426.526184n 1.8
+ 426.546184n 0 428.503253n 0 428.523253n 1.8 430.400539n 1.8
+ 430.420539n 0 432.297825n 0 432.317825n 1.8 434.266575n 1.8
+ 434.286575n 0 436.235325n 0 436.255325n 1.8 438.210629n 1.8
+ 438.230629n 0 440.185933n 0 440.205933n 1.8 442.172729n 1.8
+ 442.192729n 0 444.159524n 0 444.179524n 1.8 446.088918n 1.8
+ 446.108918n 0 448.018311n 0 448.038311n 1.8 449.969560n 1.8
+ 449.989560n 0 451.920810n 0 451.940810n 1.8 453.873011n 1.8
+ 453.893011n 0 455.825213n 0 455.845213n 1.8 457.823733n 1.8
+ 457.843733n 0 459.822254n 0 459.842254n 1.8 461.812428n 1.8
+ 461.832428n 0 463.802602n 0 463.822602n 1.8 465.770601n 1.8
+ 465.790601n 0 467.738600n 0 467.758600n 1.8 469.658893n 1.8
+ 469.678893n 0 471.579186n 0 471.599186n 1.8 473.586590n 1.8
+ 473.606590n 0 475.593993n 0 475.613993n 1.8 477.567030n 1.8
+ 477.587030n 0 479.540068n 0 479.560068n 1.8 481.489655n 1.8
+ 481.509655n 0 483.439242n 0 483.459242n 1.8 485.426479n 1.8
+ 485.446479n 0 487.413716n 0 487.433716n 1.8 489.381229n 1.8
+ 489.401229n 0 491.348743n 0 491.368743n 1.8 493.359815n 1.8
+ 493.379815n 0 495.370888n 0 495.390888n 1.8 497.324749n 1.8
+ 497.344749n 0 499.278611n 0 499.298611n 1.8 501.301995n 1.8
+ 501.321995n 0 503.325378n 0 503.345378n 1.8 505.348923n 1.8
+ 505.368923n 0 507.372469n 0 507.392469n 1.8 509.299741n 1.8
+ 509.319741n 0 511.227014n 0 511.247014n 1.8 513.206577n 1.8
+ 513.226577n 0 515.186139n 0 515.206139n 1.8 517.165999n 1.8
+ 517.185999n 0 519.145858n 0 519.165858n 1.8 521.108706n 1.8
+ 521.128706n 0 523.071554n 0 523.091554n 1.8 525.044875n 1.8
+ 525.064875n 0 527.018197n 0 527.038197n 1.8 529.027620n 1.8
+ 529.047620n 0 531.037044n 0 531.057044n 1.8 533.046717n 1.8
+ 533.066717n 0 535.056390n 0 535.076390n 1.8 537.074310n 1.8
+ 537.094310n 0 539.092230n 0 539.112230n 1.8 541.073828n 1.8
+ 541.093828n 0 543.055426n 0 543.075426n 1.8 544.983725n 1.8
+ 545.003725n 0 546.912023n 0 546.932023n 1.8 548.887184n 1.8
+ 548.907184n 0 550.862344n 0 550.882344n 1.8 552.797766n 1.8
+ 552.817766n 0 554.733188n 0 554.753188n 1.8 556.716902n 1.8
+ 556.736902n 0 558.700615n 0 558.720615n 1.8 560.688627n 1.8
+ 560.708627n 0 562.676639n 0 562.696639n 1.8 564.699040n 1.8
+ 564.719040n 0 566.721442n 0 566.741442n 1.8 568.659672n 1.8
+ 568.679672n 0 570.597902n 0 570.617902n 1.8 572.566745n 1.8
+ 572.586745n 0 574.535589n 0 574.555589n 1.8 576.461496n 1.8
+ 576.481496n 0 578.387402n 0 578.407402n 1.8 580.417165n 1.8
+ 580.437165n 0 582.446927n 0 582.466927n 1.8 584.399947n 1.8
+ 584.419947n 0 586.352966n 0 586.372966n 1.8 588.309133n 1.8
+ 588.329133n 0 590.265300n 0 590.285300n 1.8 592.230087n 1.8
+ 592.250087n 0 594.194873n 0 594.214873n 1.8 596.152320n 1.8
+ 596.172320n 0 598.109766n 0 598.129766n 1.8 600.019310n 1.8
+ 600.039310n 0 601.928854n 0 601.948854n 1.8 603.929334n 1.8
+ 603.949334n 0 605.929814n 0 605.949814n 1.8 607.864491n 1.8
+ 607.884491n 0 609.799167n 0 609.819167n 1.8 611.712369n 1.8
+ 611.732369n 0 613.625571n 0 613.645571n 1.8 615.606797n 1.8
+ 615.626797n 0 617.588023n 0 617.608023n 1.8 619.591911n 1.8
+ 619.611911n 0 621.595799n 0 621.615799n 1.8 623.591510n 1.8
+ 623.611510n 0 625.587220n 0 625.607220n 1.8 627.566144n 1.8
+ 627.586144n 0 629.545068n 0 629.565068n 1.8 631.474426n 1.8
+ 631.494426n 0 633.403784n 0 633.423784n 1.8 635.290661n 1.8
+ 635.310661n 0 637.177537n 0 637.197537n 1.8 639.119021n 1.8
+ 639.139021n 0 641.060504n 0 641.080504n 1.8 642.988441n 1.8
+ 643.008441n 0 644.916379n 0 644.936379n 1.8 646.911783n 1.8
+ 646.931783n 0 648.907187n 0 648.927187n 1.8 650.886993n 1.8
+ 650.906993n 0 652.866798n 0 652.886798n 1.8 654.871530n 1.8
+ 654.891530n 0 656.876262n 0 656.896262n 1.8 658.783018n 1.8
+ 658.803018n 0 660.689774n 0 660.709774n 1.8 662.671867n 1.8
+ 662.691867n 0 664.653959n 0 664.673959n 1.8 666.642698n 1.8
+ 666.662698n 0 668.631437n 0 668.651437n 1.8 670.533424n 1.8
+ 670.553424n 0 672.435410n 0 672.455410n 1.8 674.409042n 1.8
+ 674.429042n 0 676.382674n 0 676.402674n 1.8 678.372503n 1.8
+ 678.392503n 0 680.362333n 0 680.382333n 1.8 682.349271n 1.8
+ 682.369271n 0 684.336208n 0 684.356208n 1.8 686.275469n 1.8
+ 686.295469n 0 688.214729n 0 688.234729n 1.8 690.165530n 1.8
+ 690.185530n 0 692.116332n 0 692.136332n 1.8 694.079827n 1.8
+ 694.099827n 0 696.043322n 0 696.063322n 1.8 697.974842n 1.8
+ 697.994842n 0 699.906363n 0 699.926363n 1.8 701.854123n 1.8
+ 701.874123n 0 703.801883n 0 703.821883n 1.8 705.751815n 1.8
+ 705.771815n 0 707.701747n 0 707.721747n 1.8 709.652950n 1.8
+ 709.672950n 0 711.604153n 0 711.624153n 1.8 713.560599n 1.8
+ 713.580599n 0 715.517045n 0 715.537045n 1.8 717.511793n 1.8
+ 717.531793n 0 719.506540n 0 719.526540n 1.8 721.423188n 1.8
+ 721.443188n 0 723.339836n 0 723.359836n 1.8 725.284470n 1.8
+ 725.304470n 0 727.229103n 0 727.249103n 1.8 729.148581n 1.8
+ 729.168581n 0 731.068058n 0 731.088058n 1.8 732.954673n 1.8
+ 732.974673n 0 734.841287n 0 734.861287n 1.8 736.788530n 1.8
+ 736.808530n 0 738.735773n 0 738.755773n 1.8 740.661536n 1.8
+ 740.681536n 0 742.587299n 0 742.607299n 1.8 744.549487n 1.8
+ 744.569487n 0 746.511676n 0 746.531676n 1.8 748.468433n 1.8
+ 748.488433n 0 750.425190n 0 750.445190n 1.8 752.321361n 1.8
+ 752.341361n 0 754.217532n 0 754.237532n 1.8 756.142395n 1.8
+ 756.162395n 0 758.067257n 0 758.087257n 1.8 760.022181n 1.8
+ 760.042181n 0 761.977105n 0 761.997105n 1.8 763.962876n 1.8
+ 763.982876n 0 765.948646n 0 765.968646n 1.8 767.911526n 1.8
+ 767.931526n 0 769.874406n 0 769.894406n 1.8 771.821382n 1.8
+ 771.841382n 0 773.768359n 0 773.788359n 1.8 775.692756n 1.8
+ 775.712756n 0 777.617154n 0 777.637154n 1.8 779.603196n 1.8
+ 779.623196n 0 781.589237n 0 781.609237n 1.8 783.561057n 1.8
+ 783.581057n 0 785.532876n 0 785.552876n 1.8 787.507634n 1.8
+ 787.527634n 0 789.482391n 0 789.502391n 1.8 791.469367n 1.8
+ 791.489367n 0 793.456343n 0 793.476343n 1.8 795.414664n 1.8
+ 795.434664n 0 797.372985n 0 797.392985n 1.8 799.415909n 1.8
+ 799.435909n 0 801.458833n 0 801.478833n 1.8 803.410192n 1.8
+ 803.430192n 0 805.361552n 0 805.381552n 1.8 807.357617n 1.8
+ 807.377617n 0 809.353681n 0 809.373681n 1.8 811.331412n 1.8
+ 811.351412n 0 813.309143n 0 813.329143n 1.8 815.242398n 1.8
+ 815.262398n 0 817.175652n 0 817.195652n 1.8 819.179165n 1.8
+ 819.199165n 0 821.182678n 0 821.202678n 1.8 823.167197n 1.8
+ 823.187197n 0 825.151717n 0 825.171717n 1.8 827.106711n 1.8
+ 827.126711n 0 829.061704n 0 829.081704n 1.8 830.942478n 1.8
+ 830.962478n 0 832.823252n 0 832.843252n 1.8 834.801668n 1.8
+ 834.821668n 0 836.780084n 0 836.800084n 1.8 838.748341n 1.8
+ 838.768341n 0 840.716598n 0 840.736598n 1.8 842.627197n 1.8
+ 842.647197n 0 844.537795n 0 844.557795n 1.8 846.550141n 1.8
+ 846.570141n 0 848.562487n 0 848.582487n 1.8 850.481148n 1.8
+ 850.501148n 0 852.399810n 0 852.419810n 1.8 854.414838n 1.8
+ 854.434838n 0 856.429866n 0 856.449866n 1.8 858.360589n 1.8
+ 858.380589n 0 860.291313n 0 860.311313n 1.8 862.257161n 1.8
+ 862.277161n 0 864.223009n 0 864.243009n 1.8 866.184170n 1.8
+ 866.204170n 0 868.145331n 0 868.165331n 1.8 870.119893n 1.8
+ 870.139893n 0 872.094455n 0 872.114455n 1.8 873.964315n 1.8
+ 873.984315n 0 875.834175n 0 875.854175n 1.8 877.743680n 1.8
+ 877.763680n 0 879.653185n 0 879.673185n 1.8 881.654700n 1.8
+ 881.674700n 0 883.656216n 0 883.676216n 1.8 885.595035n 1.8
+ 885.615035n 0 887.533854n 0 887.553854n 1.8 889.572929n 1.8
+ 889.592929n 0 891.612005n 0 891.632005n 1.8 893.582369n 1.8
+ 893.602369n 0 895.552733n 0 895.572733n 1.8 897.477649n 1.8
+ 897.497649n 0 899.402565n 0 899.422565n 1.8 901.407191n 1.8
+ 901.427191n 0 903.411817n 0 903.431817n 1.8 905.413546n 1.8
+ 905.433546n 0 907.415274n 0 907.435274n 1.8 909.397789n 1.8
+ 909.417789n 0 911.380304n 0 911.400304n 1.8 913.365516n 1.8
+ 913.385516n 0 915.350727n 0 915.370727n 1.8 917.394989n 1.8
+ 917.414989n 0 919.439251n 0 919.459251n 1.8 921.376669n 1.8
+ 921.396669n 0 923.314087n 0 923.334087n 1.8 925.308395n 1.8
+ 925.328395n 0 927.302702n 0 927.322702n 1.8 929.252797n 1.8
+ 929.272797n 0 931.202893n 0 931.222893n 1.8 933.191082n 1.8
+ 933.211082n 0 935.179271n 0 935.199271n 1.8 937.184494n 1.8
+ 937.204494n 0 939.189717n 0 939.209717n 1.8 941.125642n 1.8
+ 941.145642n 0 943.061567n 0 943.081567n 1.8 944.993490n 1.8
+ 945.013490n 0 946.925412n 0 946.945412n 1.8 948.853839n 1.8
+ 948.873839n 0 950.782266n 0 950.802266n 1.8 952.736392n 1.8
+ 952.756392n 0 954.690518n 0 954.710518n 1.8 956.616896n 1.8
+ 956.636896n 0 958.543274n 0 958.563274n 1.8 960.362585n 1.8
+ 960.382585n 0 962.181896n 0 962.201896n 1.8 964.154953n 1.8
+ 964.174953n 0 966.128009n 0 966.148009n 1.8 968.081215n 1.8
+ 968.101215n 0 970.034420n 0 970.054420n 1.8 971.970280n 1.8
+ 971.990280n 0 973.906139n 0 973.926139n 1.8 975.794763n 1.8
+ 975.814763n 0 977.683386n 0 977.703386n 1.8 979.597186n 1.8
+ 979.617186n 0 981.510987n 0 981.530987n 1.8 983.414699n 1.8
+ 983.434699n 0 985.318411n 0 985.338411n 1.8 987.297940n 1.8
+ 987.317940n 0 989.277469n 0 989.297469n 1.8 991.250144n 1.8
+ 991.270144n 0 993.222818n 0 993.242818n 1.8 995.190999n 1.8
+ 995.210999n 0 997.159180n 0 997.179180n 1.8 999.118120n 1.8
+ 999.138120n 0 1001.077060n 0 1001.097060n 1.8 1003.019660n 1.8
+ 1003.039660n 0 1004.962259n 0 1004.982259n 1.8 1006.915794n 1.8
+ 1006.935794n 0 1008.869329n 0 1008.889329n 1.8 1010.724314n 1.8
+ 1010.744314n 0 1012.579298n 0 1012.599298n 1.8 1014.566840n 1.8
+ 1014.586840n 0 1016.554383n 0 1016.574383n 1.8 1018.452444n 1.8
+ 1018.472444n 0 1020.350505n 0 1020.370505n 1.8 1022.303828n 1.8
+ 1022.323828n 0 1024.257150n 0 1024.277150n 1.8 1026.190931n 1.8
+ 1026.210931n 0 1028.124712n 0 1028.144712n 1.8 1030.043101n 1.8
+ 1030.063101n 0 1031.961489n 0 1031.981489n 1.8 1033.954841n 1.8
+ 1033.974841n 0 1035.948194n 0 1035.968194n 1.8 1037.974863n 1.8
+ 1037.994863n 0 1040.001532n 0 1040.021532n 1.8 1041.960865n 1.8
+ 1041.980865n 0 1043.920197n 0 1043.940197n 1.8 1045.871948n 1.8
+ 1045.891948n 0 1047.823699n 0 1047.843699n 1.8 1049.697733n 1.8
+ 1049.717733n 0 1051.571766n 0 1051.591766n 1.8 1053.561904n 1.8
+ 1053.581904n 0 1055.552041n 0 1055.572041n 1.8 1057.451843n 1.8
+ 1057.471843n 0 1059.351646n 0 1059.371646n 1.8 1061.330990n 1.8
+ 1061.350990n 0 1063.310334n 0 1063.330334n 1.8 1065.340804n 1.8
+ 1065.360804n 0 1067.371275n 0 1067.391275n 1.8 1069.376057n 1.8
+ 1069.396057n 0 1071.380838n 0 1071.400838n 1.8 1073.384127n 1.8
+ 1073.404127n 0 1075.387415n 0 1075.407415n 1.8 1077.276152n 1.8
+ 1077.296152n 0 1079.164889n 0 1079.184889n 1.8 1081.159770n 1.8
+ 1081.179770n 0 1083.154651n 0 1083.174651n 1.8 1085.122823n 1.8
+ 1085.142823n 0 1087.090996n 0 1087.110996n 1.8 1089.019023n 1.8
+ 1089.039023n 0 1090.947050n 0 1090.967050n 1.8 1092.918508n 1.8
+ 1092.938508n 0 1094.889967n 0 1094.909967n 1.8 1096.836147n 1.8
+ 1096.856147n 0 1098.782327n 0 1098.802327n 1.8 1100.752081n 1.8
+ 1100.772081n 0 1102.721836n 0 1102.741836n 1.8 1104.642715n 1.8
+ 1104.662715n 0 1106.563594n 0 1106.583594n 1.8 1108.522064n 1.8
+ 1108.542064n 0 1110.480534n 0 1110.500534n 1.8 1112.458346n 1.8
+ 1112.478346n 0 1114.436158n 0 1114.456158n 1.8 1116.442095n 1.8
+ 1116.462095n 0 1118.448032n 0 1118.468032n 1.8 1120.413233n 1.8
+ 1120.433233n 0 1122.378434n 0 1122.398434n 1.8 1124.320813n 1.8
+ 1124.340813n 0 1126.263193n 0 1126.283193n 1.8 1128.260548n 1.8
+ 1128.280548n 0 1130.257902n 0 1130.277902n 1.8 1132.179554n 1.8
+ 1132.199554n 0 1134.101205n 0 1134.121205n 1.8 1136.081027n 1.8
+ 1136.101027n 0 1138.060849n 0 1138.080849n 1.8 1139.979201n 1.8
+ 1139.999201n 0 1141.897553n 0 1141.917553n 1.8 1143.860904n 1.8
+ 1143.880904n 0 1145.824255n 0 1145.844255n 1.8 1147.800668n 1.8
+ 1147.820668n 0 1149.777081n 0 1149.797081n 1.8 1151.719362n 1.8
+ 1151.739362n 0 1153.661642n 0 1153.681642n 1.8 1155.631985n 1.8
+ 1155.651985n 0 1157.602328n 0 1157.622328n 1.8 1159.548217n 1.8
+ 1159.568217n 0 1161.494106n 0 1161.514106n 1.8 1163.446936n 1.8
+ 1163.466936n 0 1165.399766n 0 1165.419766n 1.8 1167.352340n 1.8
+ 1167.372340n 0 1169.304913n 0 1169.324913n 1.8 1171.268943n 1.8
+ 1171.288943n 0 1173.232972n 0 1173.252972n 1.8 1175.161486n 1.8
+ 1175.181486n 0 1177.090000n 0 1177.110000n 1.8 1179.048500n 1.8
+ 1179.068500n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.end
